US06479487B1
1-(2-(1-Pyrrolidinyl)ethyl)-4-piperidone oxime is prepared from 1-(2-(1-pyrrolidinyl)ethyl)-4-piperidone and hydroxylamine hydrochloride essentially as described above in Example 38, Scheme C, step b.

reactant | 1-(2-(1-pyrrolidinyl)ethyl)-4-piperidone | N1(CCCC1)CCN1CCC(CC1)=O | C11H20N2O
reactant | hydroxylamine hydrochloride | Cl.NO
product | 1-(2-(1-Pyrrolidinyl)ethyl)-4-piperidone oxime | N1(CCCC1)CCN1CCC(CC1)=NO | C11H21N3O
